US07094777B2
A mixture of [1-(tert-butoxycarbonyl)azetidin-3-yl]acetic acid (2 g, 9.24 mmol), potassium carbonate (1.54 g, 11.1 mmol) and methyl iodide (2.89 mL, 46.5 mmol) in N,N-dimethylformamide (30 mL) was stirred at room temperature under nitrogen overnight. The reaction mixture was diluted with water and extracted with dichloromethane (x2). The combined organic layers were washed with saturated sodium hydrogencarbonate solution, dried over MgSO4 and concentrated in vacuo. The residue was dissolved in dichloromethane (5 mL) and trifluoroacetic acid (5 mL) added. The reaction was stirred at room temperature for 30 minutes. The solvent was removed in vacuo. The residue was dissolved in N,N-dimethylformamide (30 mL). 2,4-Difluorophenethyl bromide (2.26 g, 10.2 mmol) and potassium carbonate (5.14 g, 37.2 mmol) were added and the reaction heated at 60° C. overnight. The cooled reaction mixture was diluted with water and extracted with dichloromethane (x3). The combined organic layers were washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica, eluting with 5% methanol/dichloromethane, to give methyl{1-[2-(2,4-difluorophenyl)ethyl]azetidin-3-yl}acetate (1.3 g, 52%). 1H NMR (360 MHz, CDCl3) δ 7.15–7.09 (1H, m), 6.79–6.71 (2H, m), 3.64 (3H, s), 3.48–3.44 (2H, m), 2.87–2.75 (3H, m), 2.60 (4H, s), 2.57 (2H, d, J=7.1 Hz); m/z (ES+) 270 (M+H)+.

reactant | [1-(tert-butoxycarbonyl)azetidin-3-yl]acetic acid | 9.24 mmol, 2 g | C(C)(C)(C)OC(=O)N1CC(C1)CC(=O)O | C10H17NO4
reactant | potassium carbonate | 11.1 mmol, 1.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 46.5 mmol, 2.89 mL | CI | CH3I
reactant | 2,4-Difluorophenethyl bromide | 10.2 mmol, 2.26 g | FC1=C(CCBr)C=CC(=C1)F | C8H7BrF2
reactant | potassium carbonate | 37.2 mmol, 5.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl{1-[2-(2,4-difluorophenyl)ethyl]azetidin-3-yl}acetate | 1.3 g, 52% | COC(CC1CN(C1)CCC1=C(C=C(C=C1)F)F)=O | C14H17F2NO2
